US06686352B2
6-Methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine-10-carboxylic Acid
To a solution of 6-methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine-10-carboxylic acid ethyl ester (1.6 g, 5 mmol) in EtOH (20 mL) was added sodium hydroxide (0.22 g, 5.5 mmol) and water (3.5 mL) and the resulting mixture was heated under reflux for 20 min. The mixture was then cooled to 0° C. and then hydrochloric acid (4 N, 1.32 mL) was added and the mixture was cooled in an ice-bath for 1 h. A solid formed and was filtered off and then dried under vacuum to leave the product (1.1 g, 77%) as off-white crystals, mp 285-287° C., m/z 292 (M).

reactant | 6-methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine-10-carboxylic acid ethyl ester | 5 mmol, 1.6 g | C(C)OC(=O)C1=CC=CC=2C3=C(C=C4N(C21)CN=C4C)C=NC=N3 | C18H16N4O2
reactant | sodium hydroxide | 5.5 mmol, 0.22 g | [OH-].[Na+]
reactant | water | 3.5 mL | O | H2O
reactant | hydrochloric acid | 4 N, 1.32 mL | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
product | 6-Methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine-10-carboxylic Acid | 1.1 g, 77% | CC1=NCN2C1=CC1=C(C3=C2C(=CC=C3)C(=O)O)N=CN=C1 | C16H12N4O2
